US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (30.0 mg, 0.0730 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with glycine ethylester hydrochloride (41.0 mg, 0.294 mmol), triethylamine (0.081 mL, 0.58 mmol), acetic acid (0.084 mL, 1.5 mmol) and sodium triacetoxyborohydride (77.0 mg, 0.360 mmol). The reaction mixture was added with water and sodium hydrogen carbonate, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(ethoxycarbonylmethylaminomethyl)indol-2-yl]isoindolinone (39.2 mg).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0730 mmol, 30.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | glycine ethylester hydrochloride | 0.294 mmol, 41.0 mg | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.58 mmol, 0.081 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 1.5 mmol, 0.084 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.360 mmol, 77.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(ethoxycarbonylmethylaminomethyl)indol-2-yl]isoindolinone | 39.2 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNCC(=O)OCC)C(=O)OC(C)(C)C)=O | C26H28ClN3O5
